US04100166
Preparation of 2-(m-Methoxyphenyl)-2-Ethoxycarbonylmethyl-7-Formylcycloheptanone
A mixture was prepared containing 313 g. of 2-(m-methoxyphenyl)-2-ethoxycarbonylmethyl-cycloheptanone, 2 liters of ether, 332.9 g. of sodium and 115.7 g. of ethyl formate. The reaction mixture was stirred at ambient temperature for 5 days and then poured onto an ice-water mixture. The ether layer was separated and saved for recovery of starting material. The aqueous layer was acidified with cold 10 percent aqueous hydrochloric acid and the resulting acidic layer extracted with an equal volume of ether. The ether extract was separated, washed three times with a saturated aqueous sodium chloride solution and then dried. Evaporation of the solvent yielded 243 g. of 2-m-methoxyphenyl)-2-ethoxycarbonylmethyl-7-formylcycloheptanone. Molecular ion by mass spectrograph 332.

reactant | 2-(m-methoxyphenyl)-2-ethoxycarbonylmethyl-cycloheptanone | COC=1C=C(C=CC1)C1(C(CCCCC1)=O)CC(=O)OCC | C18H24O4
reactant | sodium | [Na] | Na
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | 2-ethoxycarbonylmethyl-7-formylcycloheptanone | C(C)OC(=O)CC1C(C(CCCC1)C=O)=O | C12H18O4
solvent | ether | 2 liters | CCOCC | C4H10O
product | 2-(m-Methoxyphenyl)-2-Ethoxycarbonylmethyl-7-Formylcycloheptanone | COC=1C=C(C=CC1)C1(C(C(CCCC1)C=O)=O)CC(=O)OCC | C19H24O5
